* source PROJECT3PART2
V_V4         N21296 0 10
C_C4         VIN N21274  100uF  TC=0,0 
R_R11         0 N21526  730 TC=0,0 
Q_Q1         N21420 N21274 N21526 Q2N2222
R_R5         N21296 N21274  10000k TC=0,0 
R_R10         N21274 0  7500k TC=0,0 
R_R9         N21420 N21296  10k TC=0,0 
Q_Q2         N35280 VOUT1 N35338 Q2N2222
C_C6         N35280 VOUT2  100uF  TC=0,0 
R_R15         N35286 VOUT1  300k TC=0,0 
C_C7         N21420 VOUT1  100uF  TC=0,0 
R_R14         0 N35338  60 TC=0,0 
R_R13         VOUT1 0  300k TC=0,0 
R_R12         N35280 N35286  1200 TC=0,0 
V_V7         N35286 0 10V
R_R1         VOUT2 N38790  5k TC=0,0 
R_R18         0 N38750  100 TC=0,0 
C_C1         N38750 VOUT3  100uF  TC=0,0 
R_R4         0 VOUT3  16 TC=0,0 
V_V2         N38790 0 10
R_R17         0 VOUT2  20300 TC=0,0 
V_V8         VIN 0  AC 1
+SIN 0 .01 10k 0 0 0
Q_Q3         N38790 VOUT2 N38750 Q2N2222
